US08669234B2
3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid tert-butyl ester:
4-(4-Bromo-phenyl)-3′-(2-methoxycarbonylamino-3-methyl-butyryl)-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid tert-butyl ester (75 mg, 0.136 mmol) was combined with [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (67.6 mg, 0.136 mmol) under an argon atmosphere. Potassium carbonate (37.5 mg, 0.272 mmol) and Pd(PPh3)4 (15.7 mg, 0.014 mmol) were added, followed by DME (3 mL) and water (0.6 mL). The mixture was heated under microwave conditions for 20 minutes at 120° C. All volatiles were removed in vacuo and the crude material was dissolved in DMF and purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product (55 mg): LCMS-ESI+: calc'd for C44H57N9O8: 839.9 (M+). Found: 840.5 (M+H+); 1H-NMR: 300 MHz, (MeOH-d4) δ: 7.90-7.81 (m, 10H), 5.58 (m, 1H), 5.43 (m, 1H), 5.25-5.20 (m, 2H), 4.24 (d, J=7.5 Hz, 1H), 4.11 (m, 1H), 3.99 (m, 1H), 3.86 (m, 2H), 3.67 (s, 3H), 3.66 (s, 3H), 3.46 (d, J=7.2 Hz, 1H), 2.59 (m, 1H), 2.22-2.10 (m, 5H), 1.53 & 1.44 (s, 9H) 1.04-0.89 (m, 12H).

reactant | 4-(4-Bromo-phenyl)-3′-(2-methoxycarbonylamino-3-methyl-butyryl)-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid tert-butyl ester | 0.136 mmol, 75 mg | C(C)(C)(C)OC(=O)N1CN(C(C1)C=1NC=C(N1)C1=CC=C(C=C1)Br)C(C(C(C)C)NC(=O)OC)=O | C24H32BrN5O5
reactant | [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.136 mmol, 67.6 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | Potassium carbonate | 0.272 mmol, 37.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 3 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.014 mmol, 15.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.6 mL | O | H2O
product | 3′-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid tert-butyl ester | 55 mg | C(C)(C)(C)OC(=O)N1CN(C(C1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)C(C(C(C)C)NC(=O)OC)=O | C44H57N9O8
